US07863298B2
In a manner similar to that described for Example 6B, 1-{4-[1-acetyl-4-(4-hydroxy-3-methylphenyl)-piperidin-4-yl]-2-methylphenoxy)-3,3-dimethylbutan-2-one was prepared by using 1 equiv of 1-chloropinacolone and cesium carbonate. 1-{4-[1-Acetyl-4-(4-hydroxy-3-methylphenyl)-piperidin-4-yl]-2-methylphenoxy}-3,3-dimethylbutan-2-one was then alkylated with (S)-glycidol as in Example 1H to yield 1-(4-(1-acetyl-4-[4-(2,3-dihydroxypropoxy)-3-methylphenyl]-piperidin-4-yl}-2-methylphenoxy)-3,3-dimethylbutan-2-one.

reactant | 1-{4-[1-acetyl-4-(4-hydroxy-3-methylphenyl)-piperidin-4-yl]-2-methylphenoxy)-3,3-dimethylbutan-2-one | C(C)(=O)N1CCC(CC1)(C1=CC(=C(C=C1)O)C)C1=CC(=C(OCC(C(C)(C)C)=O)C=C1)C | C27H35NO4
reactant | 1-chloropinacolone | 1 equiv | ClCC(C(C)(C)C)=O | C6H11ClO
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (S)-glycidol | C1[C@@H](O1)CO | C3H6O2
product | 1-(4-(1-acetyl-4-[4-(2,3-dihydroxypropoxy)-3-methylphenyl]-piperidin-4-yl}-2-methylphenoxy)-3,3-dimethylbutan-2-one | C(C)(=O)N1CCC(CC1)(C1=CC(=C(C=C1)OCC(CO)O)C)C1=CC(=C(OCC(C(C)(C)C)=O)C=C1)C | C30H41NO6
